.title KiCad schematic
C7 VAA GND 100NF
R4 VAA Net-_R4-Pad2_ 100R
TR1 Net-_R4-Pad2_ Net-_C14-Pad2_ Net-_R35-Pad1_ Q_PNP_EBC
C14 VAA Net-_C14-Pad2_ 47/25
R5 Net-_R49-Pad1_ Net-_C14-Pad2_ 2K2
R35 Net-_R35-Pad1_ Net-_R2-Pad1_ 1K
R2 Net-_R2-Pad1_ Net-_R2-Pad2_ 100R
R3 Net-_R2-Pad1_ Net-_R3-Pad2_ 100R
TR3 Net-_R3-Pad2_ Net-_R40-Pad1_ Net-_TR10-Pad2_ Q_PNP_EBC
R1 Net-_C16-Pad1_ Net-_C15-Pad2_ 1K1
R46 Net-_C15-Pad2_ GND 1K1
C16 Net-_C16-Pad1_ GND 100PF
R9 Net-_C16-Pad1_ Net-_C1-Pad1_ 10R
C1 Net-_C1-Pad1_ Net-_C1-Pad2_ 47/25
TR2 Net-_R2-Pad2_ Net-_C16-Pad1_ Net-_C3-Pad2_ Q_PNP_EBC
R48 Net-_C1-Pad2_ GND 100K
C15 Net-_C15-Pad1_ Net-_C15-Pad2_ 47/25
R8 NFB Net-_R40-Pad1_ 2K2
R40 Net-_R40-Pad1_ Net-_C2-Pad1_ 110R
C2 Net-_C2-Pad1_ GND 1000UF
D3 Net-_C2-Pad1_ Net-_D3-Pad2_ 1N4148
D4 Net-_D3-Pad2_ GND 1N4148
D1 Net-_D1-Pad1_ Net-_C2-Pad1_ 1N4148
D2 GND Net-_D1-Pad1_ 1N4148
TR10 Net-_R6-Pad1_ Net-_TR10-Pad2_ Net-_C3-Pad2_ Q_NPN_EBC
TR11 Net-_R7-Pad1_ Net-_TR10-Pad2_ Net-_TR10-Pad2_ Q_NPN_EBC
R47 Net-_R40-Pad1_ Net-_C15-Pad1_ 100R
R6 Net-_R6-Pad1_ Net-_C12-Pad2_ 68R
R7 Net-_R7-Pad1_ Net-_C12-Pad2_ 68R
C17 GND Net-_C12-Pad2_ 100NF
D9 Net-_D9-Pad1_ Net-_D9-Pad2_ 1N4148
R33 Net-_D9-Pad1_ Net-_R32-Pad1_ 100K
TR20 Net-_C3-Pad1_ Net-_R32-Pad1_ Net-_R11-Pad2_ Q_NPN_EBC
R32 Net-_R32-Pad1_ Net-_C3-Pad1_ 680K
C11 VAA Net-_C11-Pad2_ 47/25
TR21 VAA Net-_R41-Pad2_ Net-_R49-Pad1_ Q_PNP_EBC
R49 Net-_R49-Pad1_ Net-_C11-Pad2_ 10K
R39 Net-_C11-Pad2_ GND 10K
TR5 Net-_R13-Pad2_ Net-_R49-Pad1_ Net-_R10-Pad1_ Q_PNP_EBC
R41 Net-_R13-Pad2_ Net-_R41-Pad2_ 2K2
R13 VAA Net-_R13-Pad2_ 68R
R14 Net-_R10-Pad1_ Net-_C4-Pad1_ 16R
PR1 Net-_PR1-Pad1_ Net-_C3-Pad1_ Net-_C3-Pad1_ 1K
R11 Net-_R10-Pad2_ Net-_R11-Pad2_ 270R
TR13 Net-_R10-Pad2_ Net-_C4-Pad1_ Net-_C3-Pad1_ MJE13003
R10 Net-_R10-Pad1_ Net-_R10-Pad2_ 680R
C4 Net-_C4-Pad1_ Net-_C3-Pad1_ 47/25
TR14 Net-_C4-Pad1_ Net-_R15-Pad2_ Net-_C3-Pad1_ Q_PNP_EBC
TR4 Net-_R34-Pad1_ Net-_R36-Pad1_ Net-_C3-Pad1_ Q_NPN_EBC
R38 Net-_R34-Pad1_ Net-_C12-Pad2_ 10R
TR12 Net-_R36-Pad1_ Net-_C3-Pad2_ GND Q_NPN_EBC
C3 Net-_C3-Pad1_ Net-_C3-Pad2_ 100PF
R36 Net-_R36-Pad1_ Net-_C12-Pad2_ 2K2
Q6 Net-_C12-Pad2_ Net-_Q6-Pad2_ Net-_C3-Pad2_ Q_NPN_EBC
R34 Net-_R34-Pad1_ Net-_Q6-Pad2_ 2K2
R37 VCC Net-_C12-Pad2_ 10R
C12 GND Net-_C12-Pad2_ 1000/40
D6 VCC Net-_D5-Pad1_ 1N4148
D5 Net-_D5-Pad1_ Net-_D5-Pad2_ 1N4148
R44 Net-_D9-Pad2_ Net-_D5-Pad2_ 100K
R45 Net-_R45-Pad1_ VCC 1K
R42 VAA Net-_C5-Pad1_ 10K
R43 Net-_C5-Pad1_ Net-_R30-Pad2_ 10K
RG1 Net-_R30-Pad2_ Net-_R17-Pad2_ LM385BZ-1.2
R30 Net-_R30-Pad1_ Net-_R30-Pad2_ 3K
TR15 Net-_TR15-Pad1_ Net-_R30-Pad1_ Net-_C4-Pad1_ Q_NPN_EBC
TR16 Net-_TR15-Pad1_ Net-_R20-Pad2_ Net-_R15-Pad2_ Q_NPN_EBC
R15 Net-_C4-Pad1_ Net-_R15-Pad2_ 2K2
R31 Net-_R30-Pad1_ Net-_R17-Pad2_ 1K
R20 Net-_D7-Pad1_ Net-_R20-Pad2_ 1K
R24 Net-_D8-Pad1_ Net-_C3-Pad1_ 100R
R12 Net-_D7-Pad2_ Net-_C4-Pad1_ 100R
C5 Net-_C5-Pad1_ NFB 47/25
D7 Net-_D7-Pad1_ Net-_D7-Pad2_ 1N4148
TR18 NFB Net-_R21-Pad2_ Net-_D7-Pad1_ Q_NPN_EBC
R23 Net-_D7-Pad1_ Net-_R21-Pad2_ 270R
R21 VAA Net-_R21-Pad2_ 22K
TR6 Net-_D7-Pad2_ Net-_R25-Pad2_ Net-_D7-Pad1_ MJE13003
R25 VAA Net-_R25-Pad2_ 100R
TR19 NFB Net-_R27-Pad2_ Net-_D8-Pad2_ Q_PNP_EBC
R27 Net-_R17-Pad2_ Net-_R27-Pad2_ 270R
D8 Net-_D8-Pad1_ Net-_D8-Pad2_ 1N4148
R29 Net-_R27-Pad2_ VCC 22K
TR8 Net-_D8-Pad1_ Net-_R26-Pad1_ Net-_R17-Pad2_ BCP51
TR9 Net-_R26-Pad1_ VCC Net-_R17-Pad2_ 2N3055
TR7 Net-_R25-Pad2_ VAA Net-_D7-Pad1_ 2N3055
R16 Net-_D7-Pad1_ NFB 0R1
TR17 Net-_R45-Pad1_ Net-_D5-Pad2_ Net-_TR15-Pad1_ Q_NPN_EBC
R26 Net-_R26-Pad1_ VCC 100R
R17 NFB Net-_R17-Pad2_ 0R1
C10 GND VCC 220UF
R18 NFB Net-_C6-Pad1_ 10R
C6 Net-_C6-Pad1_ GND 100NF
L1 NFB Net-_J3-Pad1_ 10 TURNS
R19 Net-_J3-Pad1_ NFB 10R
C13 GND VCC 100NF
C9 VAA GND 220UF
R22 Net-_R11-Pad2_ Net-_PR1-Pad1_ 100R
.end
